US07279497B2
Preparation of (2R,3R,4S)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-methoxyphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (446 mg, 86%) was prepared using (2R,3R,4R)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (300 mg, 1.06 mmol) and 4-methoxyphenyl-1H-imidazol-2-ylmethylamine (216 mg, 1.06 mmol), according to the same procedure used for the preparation of example 1 above.

reactant | (2R,3R,4R)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 1.06 mmol, 300 mg | COC([C@@]1(OC2=C([C@@H]3[C@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 4-methoxyphenyl-1H-imidazol-2-ylmethylamine | 1.06 mmol, 216 mg | COC1=CC=C(C=C1)NCC=1NC=CN1 | C11H13N3O
product | (2R,3R,4S)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-methoxyphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 446 mg, 86% | COC([C@@]1(OC2=C([C@@H]([C@H]1O)N(CC=1NC=CN1)C1=CC=C(C=C1)OC)C=C(C=C2)[N+](=O)[O-])C)OC | C24H28N4O7
